US08071595B2
To a room temperature solution of 5-(4-(benzyloxy)phenyl)-2,2-dimethylfuran-3(2H)-one (1.5 g, 0.005 mol) in CHCl3 (50 mL), NBS (1.37 g, 0.007 mol) was added portionwise. The reaction mixture was stirred for 2 h at RT and then concentrated in vacuo to obtain the crude product. The residue was partitioned between water and DCM. The organic layer was separated, washed with water, dried over Na2SO4, and concentrated in vacuo to afford 5-(4-(benzyloxy)phenyl)-4-bromo-2,2-dimethylfuran-3(2H)-one (2.0 g) as a solid. This material was used in the next step without further purification.

reactant | 5-(4-(benzyloxy)phenyl)-2,2-dimethylfuran-3(2H)-one | 0.005 mol, 1.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(C(O1)(C)C)=O | C19H18O3
reactant | NBS | 0.007 mol, 1.37 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-(benzyloxy)phenyl)-4-bromo-2,2-dimethylfuran-3(2H)-one | 2.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(C(C(O1)(C)C)=O)Br | C19H17BrO3
